US07781454B2
Step 5: 3-chloro-5-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile
4-(3-bromo-5-chlorophenoxy)-5-chloro-1H-1,2,3-benzotriazole (5.0 g, 14 mmol), tetrakis triphenylphosphine palladium (0) (4.83 g, 4.83 mmol) and zinc cyanide (1.96 g, 16.7 mmol) were suspended in dry DMF (50 mL) under N2 and placed in an oil bath at 90° C. After 2.5 hours, the reaction was allowed to cool to room temperature. The mixture was diluted with EtOAc (300 mL) and washed with water (4×100 mL), dried (MgSO4), filtered and concentrated with silica gel (20 g). This was purified by automated column chromatography on silica gel (120 g), eluting with 0-30% EtOAc/hexanes to deliver the title compound. LRMS (M+1)=304.8.

reactant | 4-(3-bromo-5-chlorophenoxy)-5-chloro-1H-1,2,3-benzotriazole | 14 mmol, 5.0 g | BrC=1C=C(OC2=C(C=CC=3NN=NC32)Cl)C=C(C1)Cl | C12H6BrCl2N3O
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
catalyst | zinc cyanide | 16.7 mmol, 1.96 g | [C-]#N.[Zn+2].[C-]#N
product | 3-chloro-5-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC=2NN=NC21)Cl | C13H6Cl2N4O
